US07141598B2
Production of 6-(7-hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N-methyl-2-naphthamide
Dry THF (600 ml) containing diisopropylamine (21.3 ml) was cooled to −70° C. and n-butyl lithium (1.6 M; 95.0 ml) was added dropwise. The mixture was stirred for 10 min and ethyl acetate (14.9 ml) was added dropwise. The mixture was stirred at the same temperature for 30 min. A solution of N,N-diisopropyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide (60.0 g) in dry THF (150 ml) was added dropwise at −70° C. The mixture was stirred at the same temperature for 30 min and the reaction mixture was gradually warmed to −30° C. Water was added to stop the reaction. The organic layer was separated and the aqueous layer was extracted with a THF-toluene (1:1) mixture. The organic layers were combined, washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated to give the title compound quantitatively as a pale yellow oil.

reactant | diisopropylamine | 21.3 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6 M, 95.0 ml | C(CCC)[Li]
reactant | ethyl acetate | 14.9 ml | C(C)(=O)OCC | C4H8O2
reactant | N,N-diisopropyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 60.0 g | C(C)(C)N(C(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)C | C40H37N3O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 6-(7-hydroxy-6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)-N-methyl-2-naphthamide | OC1(CCN2C=NC=C21)C=2C=C1C=CC(=CC1=CC2)C(=O)NC | C18H17N3O2
